.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100
 
* input coupling capacitor
Ci in2 base 15u

* bias circuit
R1 vcc base 100k
R2 base 0 10k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 500
Re emit 0 137

* bypass capacitor
Cb emit 0 83u


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 100

* output coupling capacitor
Co emit2 out 30u

* load
RL out 0 8

.op
.end

.control
op
echo "op_TAB"
print v(coll)-v(emit)
print v(emit2)-v(coll)
echo "op_END"


* time analysis
tran 1e-5 1e-2
plot v(coll)
hardcopy vo1.ps vdb(coll)


* frequency analysis
ac dec 10 10 100MEG
plot vdb(coll)
plot vp(coll)
hardcopy vo1f.ps vdb(coll)



plot vdb(out)
plot vp(out)
hardcopy vo2f.ps vdb(out)

meas AC maximo MAX vdb(out) from=10 to=100MEG
let range = maximo - 3

meas AC inf WHEN vdb(out) = range
meas AC sup WHEN vdb(out) = range CROSS=LAST

let bandwidth = sup-inf
let gain = maximo
let CO_Freq= inf
let qualidade = bandwidth*gain/CO_Freq

echo "spice_results_TAB"
echo "V_Gain=$&gain"
echo "Bandwidth=$&bandwidth"
echo "CO_Freq= $&CO_Freq"
echo "spice_results_END"



*input impedance in kohm
let zin = -v(in2)[40]/vin#branch[40]

echo "op_in_TAB"
echo "Zin = $&zin"
echo "op_in_END"

plot abs(v(in2)[40]/vin#branch[40]/(-1000))

let custo = 238.837
let merito = qualidade/custo


echo "merito_TAB"
echo "Cost = $&custo"
echo "Quality = $&qualidade"
echo "Merit = $&merito"
echo "merito_END"


*need a different setup to measure output impedance

quit
.endc 

